US04803280
2-[2-(4-Chlorophenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester
A mixture of 130 g of 2-[2-(4-chlorophenyl)-1-thioxoethyl]thioglycolic acid, ethyl ester, 45 g of methyl hydrazinocarboxylate and 500 ml of dichloromethane was heated at reflux for 4 hours, then concentrated in vacuo. The residue was taken up in 1.2 liters of ether and extracted with three 500 ml portions of 0.5N sodium hydroxide. The alkaline extracts were combined, washed with ether and acidified with 6N hydrochloric acid to pH 4. The solution was extracted three times with a mixture of ether and dichloromethane. The organic phases were combined and concentrated. The residual oil was concentrated at 70°-75° C. for one hour at 0.1 mmHg. The residue was crystallized from acetone-methylcyclohexane and then from toluene, giving the desired product as ivory colored crystals, mp 147.5°-148° C. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 3.80 (s, 3H, OCH3); 4.03 (s, 2H, CH2CS); 7.31 (bs, 4H, C6H4); 8.60 (bs, 1H, NH); 9.90 (bs, 1H, NH).

reactant | 2-[2-(4-chlorophenyl)-1-thioxoethyl]thioglycolic acid, ethyl ester | 130 g | ClC1=CC=C(C=C1)CC(=S)C(C(=O)OCC)S | C12H13ClO2S2
reactant | methyl hydrazinocarboxylate | 45 g | N(N)C(=O)OC | C2H6N2O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-[2-(4-Chlorophenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester | ClC1=CC=C(C=C1)CC(=S)NNC(=O)OC | C10H11ClN2O2S
